US08975264B2
Preparation of 2-[2-ethoxymethyl-7-(4-fluorophenyl)-3-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidin-5-yl-amino]ethanol (Chemical Formula 104)
5-Chloro-2-(ethoxymethyl)-7-(4-fluorophenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine (20 mg), DIPEA (0.1 mL) and aminoethanol (0.1 mL) are stirred for 12 hours in an acetonitrile (7 mL) solvent at 84° C. The solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The collected organic layer is washed with brine and dehydrated with anhydrous MgSO4. The solvent is removed by distillation under reduced pressure and the remainder is purified by column chromatography to yield the target compound (15 mg).

reactant | 5-Chloro-2-(ethoxymethyl)-7-(4-fluorophenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine | 20 mg | ClC1=NC=2N(C(=C1)C1=CC=C(C=C1)F)N=C(C2C2=CC=C(C=C2)C)COCC | C22H19ClFN3O
reactant | DIPEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | aminoethanol | 0.1 mL | NC(C)O | C2H7NO
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 2-[2-ethoxymethyl-7-(4-fluorophenyl)-3-(4-methylphenyl)-pyrazolo[1,5-a]pyrimidin-5-yl-amino]ethanol | 15 mg | C(C)OCC1=NN2C(N=C(C=C2C2=CC=C(C=C2)F)NCCO)=C1C1=CC=C(C=C1)C | C24H25FN4O2
